US03978127
A. 4-Bromo-4'-methylbenzoin
A solution of 67 g. (0.314 mole) of p-bromophenyl-glyoxal in 300 ml. of dry toluene is added dropwise over 1 1/2 hours to a stirred suspension of 84 g. (0.6 mole) of anhydrous aluminum chloride in 1.25 l. of dry toluene cooled in an ice-bath. Stirring in the cold is continued for 5 hours and the mixture then is held at 5°-10°C. overnight. The mixture is poured into about 2 l. of ice and 6N hydrochloric acid. The aqueous phase is separated and re-extracted with three portions of benzene. The combined, washed and dried organic extracts are concentrated under reduced pressure to a volume of about 200 ml. Dilution with 150 ml. of petroleum ether precipitates the white crystalline product, m.p. 80°-82°C. Repeated recrystallization from 60% ethanol affords the analytical sample, m.p. 82°-83.5°C.

reactant | p-bromophenyl-glyoxal | 0.314 mole | BrC1=CC=C(C=C1)C(=O)C=O | C8H5BrO2
reactant | aluminum chloride | 0.6 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-4'-methylbenzoin | BrC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)C | C15H13BrO2
